Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Fever.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ yo man with mild mental retardation who 
presents with one week of subjective fever, worse at night, and 
diffuse general complaints for 2 days including lower back pain 
and myalgias. He states that he was exercising at the gym 
lifting weights and associates the onset of the LBP and arm pain 
with this. Also complaining of mild dysuria x 2 days. He denies 
recent weight loss. He denies sore throat or cough. He does 
endorse mild generalized abdominal pain without nausea, 
vomitting, or diarrhea. He states that he has been taking 
adequate PO recently.  
.  
In the ED, VS initially 99.7, Tmax 101, 122 (103), 18, 99, 
136/85. He appeared dehydrated with a diffusly mildly tender 
abdomen and ? CVA tenderness. Labs were notable for 3% atypicals 
without leukocytosis. LFTs were increased; thus, RUQ US was 
performed that showed increased echogenicity. He received 3 L of 
NS, 650 mg of tylenol, and was admitted for further evaluation. 
Prior to transfer VS 100.6 103 135/68 18 99% RA.  

 
Past Medical History:
1. Psychosis. Details of his previous psychiatric history are 
not available, but he has been followed for a number of years at 
the ___, apparently with a history of 
psychosis. He says that he has been off of medication and has 
been doing well over the past ___ years.
2. History of hypercholesterolemia. His last lipid panel in 
___ showed TC 156, ___ 200, HDL 28, and LDL 88. It is 
unknown if he was taking medication at that time, but he has not 
been on medication for at least the past year.
3. Seasonal allergies. He has a history of mild ___ 
allergies, controlled with p.r.n. OTC antihistamines
 
Social History:
___
Family History:
Father: ___.
 
Physical Exam:
Vitals: T: 102.3 BP: 118/80 P: 129 R: 20 O2: 97% RA  
General: Alert, oriented, no acute distress  
Skin: Warm and diaphoretic. No rashes, ulcerations, lesions.  
HEENT: Sclera anicteric, MMM, oropharynx clear, no erythema or 
tonsilar exudates  
Neck: supple, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: tachycardic, regular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
warm to touch, mild diffuse tenderness to deep palpation, no 
rebound tenderness or guarding, no organomegaly
MSK: mild tenderness to palpation on lower spine with pain 
reproducible with twisting, no CVA tenderness  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN II-XII grossly intact, PERRL, strength ___ throughout  

Psych: Alert, brief responses, poor historian particularly with 
time, could not say days of the week or spell WORLD forwards.  

 
Pertinent Results:
Labs, summarized:
CBC--WBC admission 9.0, by d/c 6.9 with differential N46 B1 L43 
Atypicals 3, by d/c N42 B0 L49 Atypicals 0
H/H were normal and Plts were normal
.
LFTs were significant:
ALT 199 --> 314 --> 393
AST 159 --> 249 --> 285
AlkP 142 --> 132 --> 149
Tbili 0.7 --> 0.8 --> 0.7
LDH 549
lactate 2.5
.
Lipase 28
.
Chemistries were all normal except on d/c Ca 8.3 (unknown 
albumin but Ca normal 2 days before), Phos slightly low 2.6
.
HepB: sAg negative, sAb positive, cAb negative
___: IgM negative
HepC: negative
. 
Lyme serology pending
.
IMAGING:
.
CHEST (PA & ___: No evidence of pneumonia.
.
LIVER OR GALLBLADDER US (SINGLE ORGAN) ___
1. Echogenic liver is consistent with diffuse fatty 
infiltration, although more advanced forms of liver disease 
including cirrhosis and fibrosis cannot be excluded by this 
study. 
2. No acute GB process.
 
Brief Hospital Course:
___ yo M presents with 1 wk h/o fevers, chills, malaise, and 
multiple other complaints including back and arm pain, cough and 
sore throat initially, dysuria for a couple days, mild general 
abdominal pain. He is a poor historian and endorses just about 
any symptom asked of him, answers with one word answers and 
doesn't much elaborate. Likely viral etiology given the 
diffuseness of his complaints.  

1. Fevers: Patient presented febrile and spiked fevers for the 2 
nights of his admission, with Tmax 104.6.  Given 
lymphocyte-predominant WBC and lack of focal symptoms, fevers 
were thought to be viral in etiology.  Monospot, viral 
hepatitis, and Influenza A/B nasopharyngeal swab serologies were 
all negative. Blood cultures x3 and urine culture remained 
negative, CXR was clear, UA negative, Lyme serologies were 
pending at time of discharge. Not started on ABx due to no clear 
source of infection. WBC trended down. Patient received IV 
fluids and was tolerating good PO intake at time of discharge.  
Tachycardia resolved with fluid resucitation.  DDx also included 
acute prostatitis and acute HIV, but patient did not consent to 
rectal exam or HIV viral load. 
.  
2. Transaminitis:  LFTs trended up during stay but remained 
below 500.  Thought to be secondary to viral illness causing 
fevers. Hepatitis serologies negative.  Alternatively, U/S 
findings of fatty infiltration and history of 
hypercholesterolemia may represent NASH, possibly exacerbated by 
alcohol use.  We are recommending PCP ___ for 
hypercholesterolemia and abnormal liver imaging.
.
3. Questionable history of EtOH abuse: Pt started on CIWA but 
score remained negative and was quickly discontinued. 
.
4. The pt was d/c'd home, where the pt's father, mother, and 
wife live, and so it was felt that the pt had sufficient home 
support to assess him and seek care if his clinical condition 
deteriorated. The situation was clearly explained to the pt's 
father with ___ interpreter, who voiced his understanding 
to watch over him, ensure good PO intake, give Tylenol or 
Ibuprofen for fevers, and when to seek additional care. Have 
made f/u with ___, NP for ___ 
10:20am and stressed importance of followup. 

 
Medications on Admission:
None.
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO every 6 hours 
as needed  as needed for fever or pain.
Disp:*30 Tablet(s)* Refills:*0*
2. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO every ___ hrs 
as needed  as needed for fever or pain for 1 doses.
Disp:*30 Tablet(s)* Refills:*0*
3. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed as needed for constipation.
Disp:*30 Tablet(s)* Refills:*0*
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day as needed as needed for constipation.
Disp:*30 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: presumed viral infection
.
Secondary: Hyperlipidemia, possible fatty hepatic infiltrate

 
Discharge Condition:
By the time of discharge, pt was still febrile but not in 
distress, was hemodynamically stable and all other vitals were 
within normal limits, had been ruled out for influenza A/B, 
mononucleosis, hepatitis A/B/C, had negative blood and urine 
cultures, negative chest Xray, and with no other acute medical 
issues necessitating hospitalization. 

 
Discharge Instructions:
You came into the hospital because you were having fevers for 
several days as well as muscle aches and pain on urination.  We 
did some tests to confirm that you did not have the flu or 
mononucleosis, gave you fluids because you were dehydrated, and 
medicines to bring down your temperature.
.
We are discharging you without any medications.  Please continue 
to drink as much as possible.  Please take Tylenol or Advil if 
you have a fever, but do not take more than ___ pills every day.
.
Please return to the hospital or call your doctor if you 
experience any of the following: chest pain, shortness of 
breath, worsening abdominal pain, vomiting, red or tea colored 
urine, blood in your stool, or any other symptoms that concern 
you.
 
Followup Instructions:
___